US03974278
8.7 g of 2-trifluoromethylbenzaldehyde, 16 g of γ-methoxyacetoacetic acid ethyl ester and 5 ml of aqueous concentrated ammonia in 30 ml of ethanol are heated to the boil overnight, the mixture is cooled and 2,6-dimethoxymethyl-4-(2'-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester is obtained in the form of light brown crystals of melting point 133°-134°C, in a yield of 60% of theory.

reactant | 2-trifluoromethylbenzaldehyde | 8.7 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | γ-methoxyacetoacetic acid ethyl ester | 16 g | C(C)OC(CC(=O)COC)=O | C7H12O4
reactant | ammonia | 5 ml | N | H3N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2,6-dimethoxymethyl-4-(2'-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield of 60% | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC)COC)COC | C22H26F3NO6
